US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-methylsulfinylphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(2-methylsulfinylphenyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-benzamide, the title compound was prepared. Chromatography with dichloromethane:methanol followed by conversion to the hydrochloride salt gave a white solid; mp 71°-144° C.; MS: 557; NMR (CD3OD): 1.9-2.3 (m, 6), 2.4 (s, 1), 2.7-2.8 (two s, 3), 2.9-3.4 (br, 6), 3.5-3.9 (m, 4), 7.0 (m, 4), 7.3-7.6 (m, 7), 7.5-7.6 (m, 2). Analysis for C30H34Cl2NO2S·1.0 HCl·1.0 H2O: Calculated: C, 60.45; H, 6.26; N, 4.70; Found: C, 60.43; H, 5.91; N, 4.63.

reactant | 4-(2-methylsulfinylphenyl)piperidine | CS(=O)C1=C(C=CC=C1)C1CCNCC1 | C12H17NOS
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-benzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | H2O | O | H2O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-methylsulfinylphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=C(C=CC=C1)S(=O)C | InChI=1S/C30H34Cl2N2O2S.ClH/c1-33(30(35)23-8-4-3-5-9-23)21-25(24-12-13-27(31)28(32)20-24)16-19-34-17-14-22(15-18-34)26-10-6-7-11-29(26)37(2)36;/h3-13,20,22,25H,14-19,21H2,1-2H3;1H/t25-,37?;/m1./s1
